US06127378
B10. (+/-)-cis-2-Ethoxy-1-methoxy-4-(2-aminocyclohexyl)benzene
40.0 g of (+/-)-cis-2-ethoxy-1-methoxy-4-(2-nitrocyclohex-4-enyl)benzene are dissolved in 1000 ml of ethanol and 500 ml of tetrahydrofuran, treated with 10 g of Raney nickel and hydrogenated at RT in an autoclave for 4 days at a hydrogen pressure of 100 bar. After filtration and removal of the solvent in vacuo, 35.9 g (99.8% of theory) of the title compound are obtained as a solidifying oil.

reactant | (+/-)-cis-2-ethoxy-1-methoxy-4-(2-nitrocyclohex-4-enyl)benzene | 40.0 g | C(C)OC1=C(C=CC(=C1)[C@H]1[C@H](CC=CC1)[N+](=O)[O-])OC | C15H19NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | (+/-)-cis-2-Ethoxy-1-methoxy-4-(2-aminocyclohexyl)benzene | C(C)OC1=C(C=CC(=C1)[C@H]1[C@H](CCCC1)N)OC | C15H23NO2
